Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zestril
 
Attending: ___.
 
Chief Complaint:
pneumonia  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o F hx ILD on chronic prednisone referred by PCP for 
admission for pneumonia. Patient reports 1 week of upper 
respiratory symptoms with congestion, runny nose, sneezing, 
productive cough with yellow sputum. Denies fevers, chest pain, 
or increase in her SOB (baseline DOE with 50 steps). Patient was 
seen in clinic day prior to admission, diagnosed with RLL 
pneumonia on CXR and sent home with PO Levofloxacin. Patient's 
PCP concerned given she reported not taking her meds or eating 
at home and referred patient to ED today.  
In ED Temp 99.2 HR 124 BP 101/52 RR 20 O2sat 100% 2LNC. R base 
crackles. CXR - unremarkable. EKG: sinus tach at 115, no acute 
changes. Got IV levo, and 1 liter of NS. Current vitals Temp 
98.9 HR 107 BP 147/75 RR 17 O2sat 95% 2LNC. Admitted for 
pneumonia.  

ROS: + decreased appetite. Denies fevers, chest pain, new 
shortness of breath, new DOE, PND, orthopnea, abdominal pain, 
nausea, vomiting, hematemesis, constipation, BRBPR, change in 
bowel or bladder habits, dysuria, hematuria, lower extremity 
edema, palpitations, back pain. 
 
Past Medical History:
Past Medical Hx:  
HTN  
ILD w/ pulmonary hypertension: requires 2.5 liters of oxygen 
overnight and 3 liters with activity.  
Sleep apnea wears 2.5L O2 at night.  
Diabetes  
Hyperlipidemia  
LBP/sciatica and intermittent pain in Lthigh and some  
Intermittent numbness L foot  
Endometrial hyperplasia and uterine fibroid  
Depression - with mult hospitalizations  
Seasonal allergies  
ADD  
Left knee pain-?chondromalacia  

 
Social History:
___
Family History:
non-contributory, no fam hx ILD.  

 
Physical Exam:
Vitals 97.7, 147/77, 107, 15, 93% 2LNC, 90-93% RA, ___ 126  
Gnl: NAD, Alert and oriented x 3  
HEENT: PERRLA, Anicteric, MMvdry, JVP 6  
CV: RRR, Normal S1 + S2, No murmurs, rubs or gallops  
Resp: Crackles and egophony right base, otherwise clear to 
auscultation bilaterally, no wheezes or crackles  
Abd: V. Obese, mild ttp deep palpation RLQ, Soft, NABS, No 
hepatosplenomegaly  
Extremities: No cyanosis, clubbing or edema  
Skin/nails: no rashes/no jaundice  
Neuro: AAOx3. Cn II-XII intact. gait normal.  
Rectal: not done  

 
Pertinent Results:
___ 05:15PM BLOOD WBC-10.9 RBC-4.47 Hgb-13.0 Hct-39.5 
MCV-88 MCH-29.0 MCHC-32.8 RDW-14.9 Plt ___
___ 07:25AM BLOOD WBC-6.5 RBC-3.90* Hgb-11.3* Hct-35.0* 
MCV-90 MCH-29.1 MCHC-32.4 RDW-14.8 Plt ___
___ 05:15PM BLOOD Neuts-64.7 ___ Monos-4.9 Eos-4.0 
Baso-0.6
___ 07:25AM BLOOD Glucose-184* UreaN-21* Creat-1.1 Na-137 
K-4.3 Cl-104 HCO3-25 AnGap-12
___ 05:15PM BLOOD Glucose-125* UreaN-25* Creat-1.3* Na-140 
K-4.3 Cl-103 HCO3-22 AnGap-19
___ 07:25AM BLOOD ALT-23 AST-16 AlkPhos-43 TotBili-0.3
___ 05:24PM BLOOD Lactate-1.7

ECG Study Date of ___ 
Sinus tachycardia. Left atrial abnormality. Diffuse non-specific 
ST-T wave 
change. No previous tracing available for comparison.  

CHEST (PA & LAT) Study Date of ___
IMPRESSION: 
1. Interstitial disease without significant interval change 
since chest 
radiograph of ___. 
2. No new focal consolidation or pleural effusion. 

 
Brief Hospital Course:
___ y/o F with ILD p/w URI symptoms and signs on exam suggestive 
of PNA admitted for tx pneumonia and dehydration.  

# URI/?Pneumonia: Mrs ___ is an immunosuppressed patient with 
no WBC, low grade fever, URI symptoms and exam findings, RLL 
crackles.  On CXR, there were no signs of URI, though exam is 
concerning for PNA.  She has been on bactrim ppx and has been on 
levofloxacin for this pneumonia.  She did well overnight on the 
floor.  She did not require additional oxygen and did well on 
levofloxacin.  She was in stable condition at time of discharge. 
 She was sating well while she walked with the nurse at the time 
of discharge. 

# Tachycardia: She was in sinus.  The tachycardia was due to 
dehydration, infection, and may also be a component of 
deconditioning at baseline HR up to 120 with walking per OMR 
note ___. Additionally she had missed her beta blocker today 
and could have rebound tachycardia.  She was hydrated with NS 
and encouraged PO intake.  This had resolved by the time of 
discharge. 

# CKD: Her baseline was 1.2, after IV hydration.  Her creatinine 
improved to baseline.   

# ILD: continued on home O2, immunosupression, and bactrim ppx.  


# Sleep apnea: Continued on 2.5L O2 at night. 

# Diabetes: continued metformin and add HISS  

# Pain: Chronic pain from back and knees.  She was continued on 
amitryptyline QHS.  

# Depression/Anxiety/OCD behaviors: continued on abilify, 
fluoxetine.   

# Hyperlipidemia: continued on simvastatin and fish oil.  

# HTN: She was dehyradated in ED, now with hypertension, 
continued with her home antihypertensives.  

# Seasonal allergies: continued home meds.

# FEN: Replaced lytes as necessary. Continued Ca/Vit D.  

# Prophylaxis:  
- GI: home omeprazole  
- Bowels: docusate/senna  
- DVT: heparin sc  

 
Medications on Admission:
Medications:  
Amitryptyline 40 mg QHS  
Abilify 7.5 mg QHS  
Atenolol 25 mg daily  
Azathioprine 50 mg BID  
Candesartan 4mg daily  
Fexofenadine 180mg BID -- not taking  
Fluoxetine 60mg daily  
Flonase 50 mcg 1 spray BID each nostril -- not taking  
Metformin 500mg BID  
Omeprazole 20 mg daily  
Prednisone 20 mg daily  
Simvastatin 10 mg QHS  
Bactrim DS 1 tab MWF - reports compliance with this  
Calcium  
Vit D  
Lactobacillus  
Fish Oil  

 
Discharge Medications:
1. Amitriptyline 10 mg Tablet Sig: Four (4) Tablet PO HS (at 
bedtime).  
2. Aripiprazole 15 mg Tablet Sig: 0.5 Tablet PO QHS (once a day 
(at bedtime)).  
3. Atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Azathioprine 50 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
5. Candesartan 4 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Fexofenadine 180 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
7. Fluoxetine 20 mg Capsule Sig: Three (3) Capsule PO DAILY 
(Daily).  
8. Flonase 50 mcg/Actuation Spray, Suspension Sig: One (1) spray 
Nasal twice a day.  
9. Metformin 500 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
10. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
11. Prednisone 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
13. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO QMOWEFR (___).  
14. Calcium Carbonate 500 mg Tablet, Chewable Sig: Two (2) 
Tablet, Chewable PO BID (2 times a day).  
15. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
16. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
17. Levofloxacin 250 mg Tablet Sig: Three (3) Tablet PO Q48H 
(every 48 hours) for 6 days: Please take your full course of the 
antibiotics.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
URI/Pneumonia
Tachycardia
CKD

Secondary:
ILD
Sleep apnea
Diabetes
Depression/Anxiety/OCD behaviors
Hyperlipidemia
HTN
Seasonal allergies

 
Discharge Condition:
stable

 
Discharge Instructions:
You came to the hospital with the pneumonia annd dehydration.  
We provided you with IV hydration and antibiotics.  We also 
performed chest x-ray and it should no signs of infection.  You 
were stable throughout your hospitalization.  

Please follow up with the following doctors. see below.

We made the following changes to your medications, you should 
continue take your full course of levoquine.

Please go to your emergency room and call your PCP if you 
experience any chest pain, shortness of breath, coughing, fever, 
chills, nausea , vomiting or any symptoms that is of concern to 
you. 

 
Followup Instructions:
___